US05252586
1-Benzoyl-4-(p-toluene sulfonyl)oxyethylpiperidine
A solution of p-toluene sulfonic anhydride (6.0 g, 18 mmol) in dichloromethane (50 mL) was added dropwise over 1 hour to a room temperature solution of 1-benzoyl-4-hydroxyethylpiperidine (4.3 g, 18 mmol) and dry triethylamine (2.8 mL, 2 mmol) in dichloromethane. After 2 hours, the mixture was diluted with ethyl acetate (500 mL) and extracted successively with H2O (2×100 mL), cold 0.1 M aqueous HCl (100 mL), saturated aqueous NaHCO3 (100 mL), and brine (50 mL), dried (MgSO4), filtered, and concentrated in vacuo. The crude product was purified by chromatography on silica gel, eluting with ethyl acetate, and concentrated to yield a crystalline solid (6.2 g, 89%) which melted at 81°-83° C. Analysis: Calculated for C21H25NO4S: C,65.09; H,6.50; N,3.61; S,8.27; found: C,65.31; H,6.74; N,3.41; S,8.30.

reactant | p-toluene sulfonic anhydride | 18 mmol, 6.0 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | 1-benzoyl-4-hydroxyethylpiperidine | 18 mmol, 4.3 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCO | C14H19NO2
reactant | triethylamine | 2 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 1-Benzoyl-4-(p-toluene sulfonyl)oxyethylpiperidine | 6.2 g, 89% | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C21H25NO4S
